US07199147B2
To a solution of 1H-indazole-5-carboxylic acid (400 mg, 2.47 mmol) in N,N-dimethylformamide (8 ml) were added 1-benzylpiperazine (435 mg 2.47 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (565 mg, 2.96 mmol), hydroxybenzotriazole (367 mg, 2.72 mmol) and triethylamine (0.56 ml, 3.95 mmol), and the resulting mixture was stirred overnight at room temperature. Then, a 10% aqueous potassium hydrogensulfate solution was added to the reaction solution, followed by extraction with chloroform. A 1N-aqueous sodium hydroxide solution was added to the aqueous layer, followed by extraction with chloroform. The combined organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=20/1) to obtain 5-[(4-benzyl-1-piperazinyl)carbonyl]-1H-indazole (624 mg, 79%).

reactant | 1H-indazole-5-carboxylic acid | 2.47 mmol, 400 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-benzylpiperazine | 2.47 mmol, 435 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 2.96 mmol, 565 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 2.72 mmol, 367 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 3.95 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 5-[(4-benzyl-1-piperazinyl)carbonyl]-1H-indazole | 624 mg, 79% | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C=1C=C2C=NNC2=CC1 | C19H20N4O
